US05275757
1) Preparation of diethyl octylmalonate
200 ml of ethanol was put in a 1-liter four-necked flask, 7.6 g of metal sodium cut into pieces was put therein portionwise to prepare sodium ethoxide. To this were added dropwise 54.6 g of diethyl malonate and then 63.9 g of octyl bromide. Thereafter, the mixture was refluxed for 3 hours. Then, the most part of ethanol was distilled away under the atmospheric pressure, 200 ml of water was added, and the mixture was extracted with 250 ml of ether. The ether solution was dried over sodium sulfate, ether was distilled away, and the residue was distilled under reduced pressure to give 72.1 g of a colorless oily substance (b.p. 111° C./2 mmHg). Yield 85%.

reactant | sodium | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl malonate | 54.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | octyl bromide | 63.9 g | C(CCCCCCC)Br | C8H17Br
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | diethyl octylmalonate | Yield 85% | C(CCCCCCC)C(C(=O)OCC)C(=O)OCC | C15H28O4
